US08309580B2
(2) methyl 4-[(5-bromo-2-ethylthiophen-3-yl) (cyclohexyl)methoxy]benzoate
To a mixture of (5-bromo-2-ethylthiophen-3-yl)(cyclohexyl)methanol (1.50 g) synthesized above, methyl 4-hydroxybenzoate (904 mg), 1,1′-(azodicarbonyl)dipiperidine (2.50 g) and tetrahydrofuran (30 mL) was added tributylphosphine (2.47 mL), and the mixture was stirred at room temperature for 3 hr. The reaction mixture was concentrated under reduced pressure, and the precipitate was removed by filtration and washed with diisopropyl ether. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:9, volume ratio) to give the title compound (1.20 g, 55%).

reactant | (5-bromo-2-ethylthiophen-3-yl)(cyclohexyl)methanol | 1.50 g | BrC1=CC(=C(S1)CC)C(O)C1CCCCC1 | C13H19BrOS
reactant | methyl 4-hydroxybenzoate | 904 mg | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | 1,1′-(azodicarbonyl)dipiperidine | 2.50 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 2.47 mL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | methyl 4-[(5-bromo-2-ethylthiophen-3-yl) (cyclohexyl)methoxy]benzoate | 1.20 g, 55% | BrC1=CC(=C(S1)CC)C(OC1=CC=C(C(=O)OC)C=C1)C1CCCCC1 | C21H25BrO3S
